US04234588
Ethyl 3-(6-methoxy-3-pyridyl)acrylate (32.33 g) in ethanol (160 ml) was hydrogenated at 344 kPa at 40°. using palladium-on-charcoal catalyst (5%, 0.2 g). The mixture was filtered and the filtrate was evaporated to give ethyl 3-(6-methoxy-3-pyridyl)propionate (32.7 g) as an oil.

reactant | Ethyl 3-(6-methoxy-3-pyridyl)acrylate | 32.33 g | COC1=CC=C(C=N1)C=CC(=O)OCC | C11H13NO3
solvent | ethanol | 160 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.2 g | [Pd] | Pd
product | ethyl 3-(6-methoxy-3-pyridyl)propionate | 32.7 g | COC1=CC=C(C=N1)CCC(=O)OCC | C11H15NO3
